US05905090
N-(4-trifluoromethylphenylmethyl)-2-hydroxybenzamide
This compound was obtained as a white solid starting from acetylsalicyclic acid and 4-trifluoromethylbenzylamine using the same procedure described in example 5.

reactant | acetylsalicyclic acid | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | 4-trifluoromethylbenzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | N-(4-trifluoromethylphenylmethyl)-2-hydroxybenzamide | FC(C1=CC=C(C=C1)CNC(C1=C(C=CC=C1)O)=O)(F)F | C15H12F3NO2
